Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Cephalosporins
 
Attending: ___.
 
Chief Complaint:
R foot pain, wound eval
 
Major Surgical or Invasive Procedure:
___ Resection of R ___ and ___ metarsarsal heads and 
debridement

 
History of Present Illness:
___ y/o M with PMHx IDDM c/b neuropathy, retinopathy, 
nephropathy,
HTN, HLD, referred to ED after being seen ___ ___ clinic 
this
AM 4 weeks post-op from right ___ ___ osteotomies with
continued purulent drainage/erythema with c/f worsening
infection.  

The patient had been started on Bactrim DS on ___ for wound
dehiscence. An x-ray on ___ was concerning for developing
infection. The patient reports "he did everything right" and is
upset he has an infection ___ his foot. He reports mild right 
foot
pain, but no fevers, chills, chest pain, or shortness of breath,
dysuria, black/bloody stool, or diarrhea. No muscle
pain/weakness. He does note loss of appetite over the past few
days and felt like he did not drink much water. He reports 
taking
his insulin exactly as prescribed.

Notably, his insulin regimen was recently changed last week by
Dr. ___. Lisinopril was also stopped due to
dizzy spells which have now resolved.

___ the ED:
- Initial vital signs were notable for: Temp 98, HR 112, BP
123/72 satting 97% on RA
- Exam notable for: Right foot with purulent foul-smelling
drainage from distal drainage with surrounding cellulitic
changes. Strong pedal pulses.
- Labs were notable for:

WBC 9.9 (82% neuts) Hgb 10.2 Plt 295

Na 135 Cl 101 BUN 63 SCr 2.3 K+ 6.1 Gluc 358

Ca 9.1 Mg 1.1 Phos 3.9

Lactate 2.5

VBG pH 7.33, PCO2 35, HCO19 (16 on chem7)

2 sets of blood cultures were drawn. Wound cultures were
collected.

- Studies performed include:

Right foot 3-view: Worsening bone destruction across ___ and ___
MTP joints c/w osteomyelitis

- Patient was given:
Metronidazole 500 mg
Calcium gluconate 1 gm
Insulin regular 10u
1L LR

- Consults: Podiatry was consulted who follow this patient as an
outpatient. Recent R ___ toe ___ osteotomies with ___
x-ray c/f developing infection. Now recommending broad spectrum
antibiotics (vancomycin + cefepime + metronidazole) with plans
for OR ___

Vitals on transfer: Temp: 98.4 (Tm 98.4), BP: 144/86, HR: 117,
RR: 18, O2 sat: 96%, O2 delivery: RA, Wt: 191.58 lb/86.9 kg  

Upon arrival to the floor, he reports the above story. He is
upset he is infected. Reports no complaints.

 
Past Medical History:
DIABETES TYPE II                                                
DIABETIC NEUROPATHY                                             
OBESITY                                                         
ABNORMAL LIVER FUNCTION TESTS                                   
ASTHMA                                                          
CERVICAL RADICULITIS                                            
DEPRESSION                                                      
HEALTH MAINTENANCE                                              
HYPERLIPIDEMIA                                                  
INSOMNIA                                                        
KIDNEY STONES                                                   
STRESS                                                          
HEARING LOSS                                                    
DIABETIC RETINOPATHY                                            
DIABETIC NEPHROPATHY                                            
H/O SHINGLES
PANCREATITIS                                                    
LEFT LONG FINGER TRIGGER RELEASE
TONSILLECTOMY
VENTRAL HERNIA

 
Social History:
___
Family History:
Family history was reviewed and is thought impertinent to 
current
presentation. + history of DM.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS:
GENERAL: Alert and interactive. ___ no acute distress.
EYES: NCAT. PERRL, EOMI. Sclera anicteric. 
ENT: No JVD.
CARDIAC: Regular rhythm, fast rate. Audible S1 and S2. No
murmurs/rubs/gallops.
RESP: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Protuberant, soft, non-tender to deep palpation ___ all
four quadrants. 
MSK: No clubbing or cyanosis. 1+ edema of R calf. No edema left
leg. Pulses DP 2+ bilaterally. Right foot with bandage c/d/i
recently placed by Podiatry, patient able to walk with full
demonstrated ROM. Non-tender to light palpation. 
SKIN: Warm. No rash.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 extremities
spontaneously, walking around during interview. Gait is normal. 
PSYCH: appropriate mood and affect

DISCHARGE PHYSICAL EXAM
=======================
Temp: 97.8 (Tm 98.0), BP: 96/63 (96-193/63-95), HR: 85 (70-88),
RR: 18, O2 sat: 95% (93-95), O2 delivery: Ra, Wt: 189.59 lb/86.0
kg
GENERAL: Laying ___ bed, NAD
CARDIAC: RRR, no m/r/g
RESP: CTAB, no wheezes or crackles
ABDOMEN: Protuberant, soft, non-tender to deep palpation ___ all
four quadrants
MSK: Right foot with bandage c/d/i recently placed by Podiatry,
Non-tender to light palpation. 
SKIN: Warm, no rash
NEUROLOGIC: AOx3

 
Pertinent Results:
ADMISSION LABS
===============
___ 05:07PM BLOOD WBC-9.9 RBC-3.55* Hgb-10.2* Hct-31.8* 
MCV-90 MCH-28.7 MCHC-32.1 RDW-13.2 RDWSD-42.9 Plt ___
___ 05:07PM BLOOD Neuts-82.4* Lymphs-9.3* Monos-5.9 Eos-1.4 
Baso-0.3 Im ___ AbsNeut-8.13* AbsLymp-0.92* AbsMono-0.58 
AbsEos-0.14 AbsBaso-0.03
___ 07:47AM BLOOD ___ PTT-38.3* ___
___ 05:07PM BLOOD Glucose-358* UreaN-63* Creat-2.3*# Na-135 
K-6.1* Cl-101 HCO3-16* AnGap-18
___ 05:07PM BLOOD Calcium-9.1 Phos-3.9 Mg-1.1*
___ 07:47AM BLOOD calTIBC-283 Ferritn-171 TRF-218
___ 07:47AM BLOOD %HbA1c-8.4* eAG-194*
___ 07:43PM BLOOD ___ pO2-76* pCO2-35 pH-7.33* 
calTCO2-19* Base XS--6
___ 05:14PM BLOOD Lactate-2.5*

STUDIES/IMAGING
===============
___ XR R Foot
Worsening bone destruction at and across third and fourth 
metatarsophalangeal
joints most consistent with osteomyelitis.
 
___ XR R Foot
Status post resection of the metatarsal heads of the third and 
fourth digits
___ the interim with removal of the screws.  Small pocket of air 
seen within
the soft tissues is most likely postsurgical.
 
Similar nondisplaced fractures involving the base of the third 
and fourth
proximal phalanges.  Small retrocalcaneal and sub calcaneal 
spurs.  Moderate
vascular calcifications.

MICROBIOLOGY
=============

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND SINGLY. 

   WOUND CULTURE (Final ___: 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 
         SULFA X TRIMETH test result performed by ___. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------     4 R
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------  =>16 R
LEVOFLOXACIN----------   =>8 R
OXACILLIN-------------<=0.25 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA----       S

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


DISCHARGE LABS
================

___ 04:33AM BLOOD WBC-5.1 RBC-2.93* Hgb-8.2* Hct-26.0* 
MCV-89 MCH-28.0 MCHC-31.5* RDW-13.3 RDWSD-43.2 Plt ___
___ 04:33AM BLOOD Glucose-201* UreaN-15 Creat-0.9 Na-140 
K-4.1 Cl-101 HCO3-27 AnGap-12
___ 04:33AM BLOOD Calcium-7.6* Phos-2.9 Mg-1.6
 
Brief Hospital Course:
SUMMARY
=========
___ y/o M with PMHx IDDM c/b neuropathy, retinopathy, 
nephropathy, HTN, HLD, who was admitted from ___ clinic 4 
weeks post op from ___ and ___ Weill osteotomies due to concern 
for worsening infection. The patient was treated with broad 
spectrum antibiotics that were later narrowed to cefazolin. He 
returned to the OR with podiatry on ___ for debridement and MTP 
resection. 

TRANSITIONAL ISSUES
===================
[] carotid bruit on left on exam. Consider evaluation with 
carotid U/S.
[] ___ infectious disease will follow-up final culture results 
from patient's debridement and may make antibiotic changes based 
on that. They will contact the ___ rehab to inform them of 
any changes.
[] patient should be non-weight bearing ___ right lower 
extremity.
[] please recheck CBC on ___ to make sure hgb is stable. hgb 
8.2 on discharge thought to be dilutional. 
#CODE: Full (presumed)
#CONTACT: ___ (wife) ___

ACUTE ISSUES
=============
# Right diabetic foot osteomyelitis
# Diabetic neuropathy
# Sepsis
# Lactic acidosis
The patient has a history of recurrent foot wounds.  Underwent 
recent ___ osteotomy on ___ for infected wounds and had 
been on prophylactic bactrim since. However presented with 
concerns for continued and worsening infection with XR 
consistent with osteomyelitis. On admission the patient was 
started on broad spectrum antibiotics. ID was consulted. 
Podiatry was aslo involved and performed MTP resection of the 
___ and ___ R toes as well as extensive debridement. Surgical 
specimens were found to grow MSSA so the patient was narrowed to 
cefazolin antibiotics to compete the course as an outpatient. 

# ___ on CKD, resolved 
# Diabetic nephropathy
Baseline 1.1-1.2, presented with Cr 2.3 ___ ED. Likely related to 
poor PO intake and dehydration. Received 1L IVF ___ ED, with 
return to baseline renal function.

# Hyperkalemia 
K initially 6.1 ___ the setting of the ___ with peaked T-waves. 
Was given, IVF and home insulin with improvement.

# DMII
Last A1C ___ ___ record 8.7, ___. Multiple microvascular
complications discussed above. Patient on home basal and regular 
insulin with meals, recently seen by ___ the week prior to 
admission. He was continued on his home regimen and a sliding 
scale.

# Anemia
Prior baseline 11.5-12.5, was ___ for majority of this 
admission.  Patient has history of iron deficiency ___ ___ and 
___ (ferritin 14, 13) respectively. Last colonoscopy ___, 
normal w/ recommended ___ follow up.  There were no signs of 
active bleeding. Iron studies were checked and suggestive of 
inflammation.  Hemoglobin 8.2 on day of discharge, but drawn  
from ___ line, likely dilution, patient had no GI sx of blood 
loss.  

CHRONIC ISSUES:
===============
# HTN
Recently stopped lisinopril due to dizziness that has resolved.  
Will likely need restart of lisinopril with close monitoring of 
potassium and pressures.   His BP appears to increase with 
stress.  This should be done as an outpatient.  

# Depression
The patient was continued on home duloxetine 60 mg BID.

# HLD
The patient was continued on home atorvastatin 80 mg.

# Primary Prevention
Held home ASA iso planned operation; unclear indication as
patient has no cardiac history.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Oxazepam 15 mg PO QHS 
2. Glargine 32 Units Bedtime
Humalog 12 Units Breakfast
Humalog 10 Units Lunch
Humalog 12 Units Dinner
Insulin SC Sliding Scale using HUM Insulin
3. DULoxetine ___ 60 mg PO BID 
4. dulaglutide 0.75 mg/0.5 mL subcutaneous DAILY 
5. Atorvastatin 80 mg PO QPM 
6. Gabapentin 600 mg PO TID 
7. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  CeFAZolin 2 g IV Q8H  
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*36 Tablet Refills:*0 
4.  Polyethylene Glycol 17 g PO DAILY  
5.  Ramelteon 8 mg PO QPM:PRN sleep  
6.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
7.  TraZODone 25 mg PO QHS  
8.  Glargine 32 Units Bedtime
Humalog 12 Units Breakfast
Humalog 10 Units Lunch
Humalog 12 Units Dinner
Insulin SC Sliding Scale using HUM Insulin 
9.  Aspirin 81 mg PO DAILY  
10.  Atorvastatin 80 mg PO QPM  
11.  dulaglutide 0.75 mg/0.5 mL subcutaneous DAILY  
12.  DULoxetine ___ 60 mg PO BID  
13.  Gabapentin 600 mg PO TID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
R foot osteomyelitis
Diabetic ulcers
___ on CKD
DMII
Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___.

You were admitted because you had an infection ___ your R foot 
that involved the bones.

While you were here you were given antibiotics to treat the 
infection. The podiatry team also operated on your foot and 
removed the infected bone.

When you go home you should follow up with all your outpatient 
doctors as listed below. Please take all your medications as 
prescribed.

We wish you the best!

Your ___ Care TeamR 
 
Followup Instructions:
___